US09315763B2
(b) Synthesis of (Z)-3-hexenyl 2-oxo-2-(4-vinylphenyl)acetate
A Grignard reagent prepared from 4-bromostyrene (6.95 g, 38.0 mmol) and magnesium (0.97 g, 39.9 mmol) in THF (100 mL) was added dropwise (during a period of 20 min) to a stirred solution of bis[(Z)-3-hexenyl]oxalate (9.20 g, 36.2 mmol) in THF (35 mL) at −60° C. The mixture was left warming to room temperature and poured into a mixture of ice (100 g) and a saturated solution of NH4Cl (100 mL). Extraction with diethyl ether (200 mL, 2×), washing with a saturated solution of NaCl (50 mL, 4×, pH 7), drying (Na2SO4) and concentrating afforded 11.47 g of the crude compound as a brownish oil. Bulb-to-bulb distillation of 8.68 g of the crude product (0.06 mbar, 60° C.) and column chromatography (SiO2, heptane/ether 95:5, then 1:1, then pure ether) gave 3.53 g (50%) of an oil.

reactant | 4-bromostyrene | 38.0 mmol, 6.95 g | BrC1=CC=C(C=C)C=C1 | C8H7Br
reactant | magnesium | 39.9 mmol, 0.97 g | [Mg] | Mg
reactant | bis[(Z)-3-hexenyl]oxalate | 36.2 mmol, 9.20 g | C(C\C=C/CC)OC(C(=O)OCC\C=C/CC)=O | C14H22O4
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | (Z)-3-hexenyl 2-oxo-2-(4-vinylphenyl)acetate | 3.53 g, 50% | O=C(C(=O)OCC\C=C/CC)C1=CC=C(C=C1)C=C | C16H18O3
